US08633201B2
4-Nitro-3-(tetrahydrofuran-3-yloxy)-benzamide
To a solution of 3-hydroxytetrahydrofuran (2.57 ml, 1.2 eq, 23.0 mmol) in THF (50 ml) was added sodium hydride as a 60% dispersion in oil (0.84 g, 1.1 eq, 20.91 mmol) this mixture was then stirred at 0° C. for 30 minutes. The preceding mixture was added dropwise to a solution of 3-fluoro-4-nitrobenzamide (3.5 g, 1.0 eq, 19.01 mmol) in THF (30 ml) and stirred at room temperature for 3.5 hours. The reaction was quenched with water and extracted with DCM (3×50 ml), the organics were combined, dried over sodium sulphate, filtered and the solvent removed in vacuo to give the title compound as a yellow solid (4.77 g, 18.9 mmol, 96% corrected). LCMS: [M+H]+=253, Rt=1.41 min, 100% purity

reactant | 3-hydroxytetrahydrofuran | 23.0 mmol, 2.57 ml, 1.2 eq | OC1COCC1 | C4H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-fluoro-4-nitrobenzamide | 19.01 mmol, 3.5 g, 1.0 eq | FC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C7H5FN2O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-Nitro-3-(tetrahydrofuran-3-yloxy)-benzamide | 18.9 mmol, 4.77 g, 96% | [N+](=O)([O-])C1=C(C=C(C(=O)N)C=C1)OC1COCC1 | C11H12N2O5
